### PR TITLE
[Merged by Bors] - feat: port GroupTheory.GroupAction.SubMulAction

### PR DESCRIPTION
**Pull request by j-loreaux**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/GroupTheory/GroupAction/SubMulAction.lean [hunk 1]
```diff
@@ -0,0 +1,383 @@
...
+  simp only [MulAction.mem_stabilizer_submonoid_iff, ← SubMulAction.val_smul, SetLike.coe_eq_coe]
+#align sub_mul_action.stabilizer_of_sub_mul.submonoid SubMulAction.stabilizer_of_subMul.submonoid
+
+end MulActionMonoid
+
+section MulActionGroup
+
+variable [Group R] [MulAction R M]
+
+/-- Stabilizers in group sub_mul_action coincide with stabilizers in the ambient space -/
```
Comment (jcommelin) [inline Mathlib/GroupTheory/GroupAction/SubMulAction.lean:308]:
```suggestion
/-- Stabilizers in group SubMulAction coincide with stabilizers in the ambient space -/
```

File: Mathlib/GroupTheory/GroupAction/SubMulAction.lean [hunk 2]
```diff
@@ -0,0 +1,383 @@
...
+theorem val_image_orbit {p : SubMulAction R M} (m : p) :
+    Subtype.val '' MulAction.orbit R m = MulAction.orbit R (m : M) :=
+  (Set.range_comp _ _).symm
+#align sub_mul_action.coe_image_orbit SubMulAction.val_image_orbit
+
+/- -- Previously, the relatively useless :
+lemma orbit_of_sub_mul {p : sub_mul_action R M} (m : p) :
+  (mul_action.orbit R m : set M) = mul_action.orbit R (m : M) := rfl
+-/
+/-- Stabilizers in monoid sub_mul_action coincide with stabilizers in the ambient space -/
```
Comment (jcommelin) [inline Mathlib/GroupTheory/GroupAction/SubMulAction.lean:295]:
```suggestion
lemma orbit_of_sub_mul {p : SubMulAction R M} (m : p) :
  (mul_action.orbit R m : set M) = MulAction.orbit R (m : M) := rfl
-/
/-- Stabilizers in monoid SubMulAction coincide with stabilizers in the ambient space -/
```

File: Mathlib/GroupTheory/GroupAction/SubMulAction.lean [hunk 3]
```diff
@@ -0,0 +1,383 @@
...
+
+@[simp]
+theorem forall_smul_mem_iff {R M S : Type _} [Monoid R] [MulAction R M] [SetLike S M]
+    [SMulMemClass S R M] {N : S} {x : M} : (∀ a : R, a • x ∈ N) ↔ x ∈ N :=
+  ⟨fun h => by simpa using h 1, fun h a => SMulMemClass.smul_mem a h⟩
+#align set_like.forall_smul_mem_iff SetLike.forall_smul_mem_iff
+
+end SetLike
+
+/-- A sub_mul_action is a set which is closed under scalar multiplication.  -/
```
Comment (jcommelin) [inline Mathlib/GroupTheory/GroupAction/SubMulAction.lean:102]:
```suggestion
/-- A SubMulAction is a set which is closed under scalar multiplication.  -/
```

File: Mathlib/GroupTheory/GroupAction/SubMulAction.lean [hunk 4]
```diff
@@ -41,45 +41,45 @@ universe u u' u'' v
...
 @[to_additive "A subset closed under the additive action inherits that action."]
-instance (priority := 900) hasSmul : SMul R s :=
+instance (priority := 900) instSMul : SMul R s :=
   ⟨fun r x => ⟨r • x.1, smul_mem r x.2⟩⟩
-#align set_like.has_smul SetLike.hasSmul
-#align set_like.has_vadd SetLike.hasVadd
+#align set_like.has_smul SetLike.instSMul
+#align set_like.has_vadd SetLike.instVAdd
 
 -- lower priority so later simp lemmas are used first; to appease simp_nf
```
Comment (jcommelin) [inline Mathlib/GroupTheory/GroupAction/SubMulAction.lean:74]:
```suggestion
-- Porting note: TODO lower priority not actually there
-- lower priority so later simp lemmas are used first; to appease simp_nf
```

File: Mathlib/GroupTheory/GroupAction/SubMulAction.lean [hunk 5]
```diff
@@ -41,45 +41,45 @@ universe u u' u'' v
...
-protected theorem coe_smul (r : R) (x : s) : (↑(r • x) : M) = r • x :=
+@[to_additive (attr := simp, norm_cast)]
+protected theorem val_smul (r : R) (x : s) : (↑(r • x) : M) = r • (x : M) :=
   rfl
-#align set_like.coe_smul SetLike.coe_smul
-#align set_like.coe_vadd SetLike.coe_vadd
+#align set_like.coe_smul SetLike.val_smul
+#align set_like.coe_vadd SetLike.val_vadd
 
 -- lower priority so later simp lemmas are used first; to appease simp_nf
```
Comment (jcommelin) [inline Mathlib/GroupTheory/GroupAction/SubMulAction.lean:81]:
```suggestion
-- Porting note: TODO lower priority not actually there
-- lower priority so later simp lemmas are used first; to appease simp_nf
```

File: Mathlib/GroupTheory/GroupAction/SubMulAction.lean [hunk 6]
```diff
@@ -0,0 +1,385 @@
...
+
+open SMulMemClass
+
+-- lower priority so other instances are found first
+/-- A subset closed under the scalar action inherits that action. -/
+@[to_additive "A subset closed under the additive action inherits that action."]
+instance (priority := 900) instSMul : SMul R s :=
+  ⟨fun r x => ⟨r • x.1, smul_mem r x.2⟩⟩
+#align set_like.has_smul SetLike.instSMul
+#align set_like.has_vadd SetLike.instVAdd
```
Comment (Ruben-VandeVelde) [inline Mathlib/GroupTheory/GroupAction/SubMulAction.lean:72]:
```suggestion
instance (priority := 900) smul : SMul R s :=
  ⟨fun r x => ⟨r • x.1, smul_mem r x.2⟩⟩
#align set_like.has_smul SetLike.smul
#align set_like.has_vadd SetLike.vadd
```

File: Mathlib/GroupTheory/GroupAction/SubMulAction.lean [hunk 7]
```diff
@@ -0,0 +1,385 @@
...
+
+variable (p : SubMulAction R M)
+
+theorem smul_of_tower_mem (s : S) {x : M} (h : x ∈ p) : s • x ∈ p := by
+  rw [← one_smul R x, ← smul_assoc]
+  exact p.smul_mem _ h
+#align sub_mul_action.smul_of_tower_mem SubMulAction.smul_of_tower_mem
+
+instance instSmul' : SMul S p where smul c x := ⟨c • x.1, smul_of_tower_mem _ c x.2⟩
+#align sub_mul_action.has_smul' SubMulAction.instSmul'
```
Comment (Ruben-VandeVelde) [inline Mathlib/GroupTheory/GroupAction/SubMulAction.lean:241]:
```suggestion
instance smul' : SMul S p where smul c x := ⟨c • x.1, smul_of_tower_mem _ c x.2⟩
#align sub_mul_action.has_smul' SubMulAction.smul'
```

File: Mathlib/GroupTheory/GroupAction/SubMulAction.lean [hunk 8]
```diff
@@ -0,0 +1,385 @@
...
+#align sub_mul_action.coe_smul_of_tower SubMulAction.val_smul_of_tower
+
+@[simp]
+theorem smul_mem_iff' {G} [Group G] [SMul G R] [MulAction G M] [IsScalarTower G R M] (g : G)
+    {x : M} : g • x ∈ p ↔ x ∈ p :=
+  ⟨fun h => inv_smul_smul g x ▸ p.smul_of_tower_mem g⁻¹ h, p.smul_of_tower_mem g⟩
+#align sub_mul_action.smul_mem_iff' SubMulAction.smul_mem_iff'
+
+instance [SMul Sᵐᵒᵖ R] [SMul Sᵐᵒᵖ M] [IsScalarTower Sᵐᵒᵖ R M] [IsCentralScalar S M] :
+    IsCentralScalar S p where op_smul_eq_smul r x := Subtype.ext <| op_smul_eq_smul r (x : M)
```
Comment (Ruben-VandeVelde) [inline Mathlib/GroupTheory/GroupAction/SubMulAction.lean:264]:
```suggestion
instance [SMul Sᵐᵒᵖ R] [SMul Sᵐᵒᵖ M] [IsScalarTower Sᵐᵒᵖ R M] [IsCentralScalar S M] :
    IsCentralScalar S p where
  op_smul_eq_smul r x := Subtype.ext <| op_smul_eq_smul r (x : M)
```

File: Mathlib/GroupTheory/GroupAction/SubMulAction.lean [hunk 9]
```diff
@@ -0,0 +1,385 @@
...
+
+theorem zero_mem (h : (p : Set M).Nonempty) : (0 : M) ∈ p :=
+  let ⟨x, hx⟩ := h
+  zero_smul R (x : M) ▸ p.smul_mem 0 hx
+#align sub_mul_action.zero_mem SubMulAction.zero_mem
+
+/-- If the scalar product forms a `Module`, and the `SubMulAction` is not `⊥`, then the
+subset inherits the zero. -/
+instance [n_empty : Nonempty p] : Zero p
+    where zero := ⟨0, n_empty.elim fun x => p.zero_mem ⟨x, x.prop⟩⟩
```
Comment (Ruben-VandeVelde) [inline Mathlib/GroupTheory/GroupAction/SubMulAction.lean:335]:
```suggestion
instance [n_empty : Nonempty p] : Zero p where
  zero := ⟨0, n_empty.elim fun x => p.zero_mem ⟨x, x.prop⟩⟩
```

**Review by Ruben-VandeVelde — APPROVED** [review]

File: Mathlib/GroupTheory/GroupAction/SubMulAction.lean [hunk 10]
```diff
@@ -0,0 +1,385 @@
...
+#align sub_mul_action.has_smul' SubMulAction.instSmul'
+
+instance isScalarTower : IsScalarTower S R p where
+  smul_assoc s r x := Subtype.ext <| smul_assoc s r (x : M)
+#align sub_mul_action.is_scalar_tower SubMulAction.isScalarTower
+
+instance is_scalar_tower' {S' : Type _} [SMul S' R] [SMul S' S] [SMul S' M] [IsScalarTower S' R M]
+    [IsScalarTower S' S M] : IsScalarTower S' S p
+    where smul_assoc s r x := Subtype.ext <| smul_assoc s r (x : M)
+#align sub_mul_action.is_scalar_tower' SubMulAction.is_scalar_tower'
```
Comment (Ruben-VandeVelde) [inline Mathlib/GroupTheory/GroupAction/SubMulAction.lean:250]:
```suggestion
instance isScalarTower' {S' : Type _} [SMul S' R] [SMul S' S] [SMul S' M] [IsScalarTower S' R M]
    [IsScalarTower S' S M] : IsScalarTower S' S p
    where smul_assoc s r x := Subtype.ext <| smul_assoc s r (x : M)
#align sub_mul_action.is_scalar_tower' SubMulAction.isScalarTower'
```

File: Mathlib/GroupTheory/GroupAction/SubMulAction.lean [hunk 11]
```diff
@@ -0,0 +1,385 @@
...
+instance : SMul R p where smul c x := ⟨c • x.1, smul_mem _ c x.2⟩
+
+variable {p}
+
+@[simp, norm_cast]
+theorem val_smul (r : R) (x : p) : (↑(r • x) : M) = r • (x : M) :=
+  rfl
+#align sub_mul_action.coe_smul SubMulAction.val_smul
+
+-- porting note: no longer needed because of defeq structure eta
```
Comment (ChrisHughes24) [inline Mathlib/GroupTheory/GroupAction/SubMulAction.lean:181]: I'm not sure why the linter doesn't like this lemma. From where I'm sitting the head symbol is not x. Also, I don't think this has anything to do with structural eta

Comment (Ruben-VandeVelde) [reply Mathlib/GroupTheory/GroupAction/SubMulAction.lean:181]: Linter says
```lean
/- The `simpVarHead` linter reports:
LEFT-HAND SIDE HAS VARIABLE AS HEAD SYMBOL.
Some simp lemmas have a variable as head symbol of the left-hand side (after whnfR): -/
#check @coe_mk /- Left-hand side has variable as head symbol: x -/
```
probably because
`Subtype.val { val := x, property := hx } = x`

File: Mathlib/GroupTheory/GroupAction/SubMulAction.lean [hunk 12]
```diff
@@ -0,0 +1,386 @@
...
+
+open Function
+
+universe u u' u'' v
+
+variable {S : Type u'} {T : Type u''} {R : Type u} {M : Type v}
+
+/-- `SMulMemClass S R M` says `S` is a type of subsets `s ≤ M` that are closed under the
+scalar action of `R` on `M`. -/
+class SMulMemClass (S : Type _) (R M : outParam <| Type _) [SMul R M] [SetLike S M] where
```
Comment (Vierkantor) [inline Mathlib/GroupTheory/GroupAction/SubMulAction.lean:46]: Could you for all these classes please remove the `outParam` annotations on `M` (keeping them for `R`), following #1832?

```suggestion
class SMulMemClass (S : Type _) (R : outParam <| Type _) (M : Type _) [SMul R M] [SetLike S M] where
```

File: Mathlib/GroupTheory/GroupAction/SubMulAction.lean (hunk 11 above)
Comment (j-loreaux) [reply Mathlib/GroupTheory/GroupAction/SubMulAction.lean:181]: Yes, my understanding was that this is exactly due to the structural eta defeq `Subtype.val { val := x, property := hx } = x`. It was my understanding that we have been removing these `coe_mk` lemmas across the library. If you search the docs for `coe_mk`, you'll find a bunch, but I think these are for homs and set-likes, where the `coe` is `FunLike.coe` or `SetLike.coe` and hence the structural eta doesn't apply.

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge
